US06177440B1
D. [9-[(Cyclopentyl)methyl]-5-carbamoylcarbazol-4-yl]oxyacetic acid, methyl ester
A mixture of 9-[(cyclopentyl)methyl]-4-hydroxy-5-carbamoyl carbazole (45 mg, 0.146 mmol) and Cs2CO3 (120 mg; 0.365 mmol) in 2 mL of DMF was treated with methyl bromoacetate (0.018 mL; 0.19 mmol). The reaction was stirred for 2 hours at ambient temperature, then it was diluted with EtOAc and H2O (10 mL each). The aqueous layer was saturated with solid NaCl extracted with EtOAc (2×10 mL). The combined organic layers were washed with H2O (2×25 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (elution with a gradient of 0% to 100% EtOAc/hexanes) followed by trituration with Et2O/EtOAc afforded 26 mg (0.0683 mmol; 47%) of title compound as a tan solid. MS (ES) m/e 381 (M+1), 364 (M+H−NH3), 439 (M+AcO−)

reactant | 9-[(cyclopentyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 0.146 mmol, 45 mg | C1(CCCC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C19H20N2O2
reactant | Cs2CO3 | 0.365 mmol, 120 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl bromoacetate | 0.19 mmol, 0.018 mL | BrCC(=O)OC | C3H5BrO2
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 10 mL | O | H2O
product | [9-[(Cyclopentyl)methyl]-5-carbamoylcarbazol-4-yl]oxyacetic acid, methyl ester | C1(CCCC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC)C(N)=O | C22H24N2O4
